US07247645B2
1) Synthesis of (3,3-diphenylpropane-1-yl)4-chloroacetoacetate:
3.2 ml (23.7 mmol) of ethyl 4-chloroacetoacetate and 5.00 g (23.6 mmol) of 3,3-diphenyl-1-propanol were heated at 130° C. in 100 ml of toluene overnight. Toluene was distilled out under reduced pressure to obtain the title compound.

reactant | ethyl 4-chloroacetoacetate | 23.7 mmol, 3.2 ml | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | 3,3-diphenyl-1-propanol | 23.6 mmol, 5.00 g | C1(=CC=CC=C1)C(CCO)C1=CC=CC=C1 | C15H16O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (3,3-diphenylpropane-1-yl)4-chloroacetoacetate | quantitative yield | C1(=CC=CC=C1)C(CCOC(CC(=O)CCl)=O)C1=CC=CC=C1 | C19H19ClO3
